US06323235B1
Methyl (2-(3-acetoxypropyl)-3-(2-(diphenylmethyl)thioethyl)benzofuran-7-yloxy)acetate
Methyl (2-(3-acetoxypropyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate (78 mg) was dissolved in dichloromethane (1 ml) and the obtained solution was cooled to 0° C. To this solution, triethylamine (0.02 ml) and methanesulfonyl chloride (0.047 ml) were added and the resulting mixture was stirred for 30 minutes. The reaction solution was poured into water (50 ml) and extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the obtained residue was dissolved in DMF (2 ml). To this solution, diphenylmethanethiol (89 mg) and potassium carbonate (37 mg) were added and the resultant was stirred at room temperature for 22 hours. The reaction mixture was poured into water (50 ml) and the resultant was extracted twice with ethyl acetate (20 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=2/1) using silica gel to obtain the desired compound (83 mg, yield: 70%).

reactant | Methyl (2-(3-acetoxypropyl)-3-(2-hydroxyethyl)benzofuran-7-yloxy)acetate | 78 mg | C(C)(=O)OCCCC=1OC2=C(C1CCO)C=CC=C2OCC(=O)OC | C18H22O7
reactant | triethylamine | 0.02 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.047 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 ml | O | H2O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | Methyl (2-(3-acetoxypropyl)-3-(2-(diphenylmethyl)thioethyl)benzofuran-7-yloxy)acetate | 83 mg, yield: 70% | C(C)(=O)OCCCC=1OC2=C(C1CCSC(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2OCC(=O)OC | C31H32O6S
